US06864265B2
4-(4-Fluorophenyl)-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole-2-carbaldehyde
Reaction of 4(4-fluoro-phenyl)-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole (688 mg, 2.35 mmol), 1.5 M n-BuLi (2.0 mL, 3.0 mmol), and DMF (0.55 mL, 7.1 mmol) gave the title compound as a brown oil that was used without further purification in the next step. 1H NMR (CDCl3) 0.00 (s, 9H), 0.95 (m, 2H), 3.61 (m, 2H), 5.82 (s, 2H), 7.12 (m, 2H), 7.28 (s, 1H), 7.59 (s, 1H), 7.80. (m, 2H), 9.88 (s, 1H).

reactant | 4(4-fluoro-phenyl)-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole | 2.35 mmol, 688 mg | FC1=CC=C(C=C1)C=1N=CN(C1)COCC[Si](C)(C)C | C15H21FN2OSi
reactant | n-BuLi | 3.0 mmol, 1.5 M, 2.0 mL | [Li]CCCC
reactant | DMF | 7.1 mmol, 0.55 mL | CN(C)C=O | C3H7NO
product | 4-(4-Fluorophenyl)-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole-2-carbaldehyde | FC1=CC=C(C=C1)C=1N=C(N(C1)COCC[Si](C)(C)C)C=O | C16H21FN2O2Si
